US06090802
To a solution of 1-(4-nitrobenzyloxycarbonyl)-L-proline (2.81 g) in anhydrous acetonitrile (40 ml), N,N-carbonyldiimidazole (1.42 g) was added at room temperature, followed by stirring for one hour. The reaction mixture was allowed to react under ice cooling with a solution of 3-amino-1-(tert-butoxycarbonyl)azetidine (1.31 g) in anhydrous acetonitrile (10 ml) in a similar manner to that described in Referential Example 1-(1), whereby 2.74 g of 1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)-L-prolylamino]azetidine were obtained.

reactant | 1-(4-nitrobenzyloxycarbonyl)-L-proline | 2.81 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)CCC2)C=C1 | C13H14N2O6
reactant | N,N-carbonyldiimidazole | 1.42 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-1-(tert-butoxycarbonyl)azetidine | 1.31 g | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)-L-prolylamino]azetidine | 2.74 g | C(C)(C)(C)OC(=O)N1CC(C1)NC([C@H]1N(CCC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H28N4O7
